*
* NGSPICE simulation script
*Title: t1
*

* forces current values to be saved
.options savecurrents


*voltage sources
Va 0 3 -5.18937402699

Vnull 3 3b 0.

Hvc 4 7 Vnull -8.32372114868


*current sources
Id 5 7 1.00970251859

Gib 2 5 1 4 7.32338601881


*resistors
R1 0 1 1.02738610688

R2 1 2 2.03394761163

R3 1 4 3.13880655715

R4 3 4 4.00338881943

R5 4 5 3.07163426496

R6 6 3b 2.05278260557

R7 7 6 1.01283324471


*Control comands
.control
op
echo  "op_TAB"
print all
echo  "op_END"
.endc